*******************************************************************
* CDL Produced by pegasusBuildNetlist on Sun Dec 07 14:45:07 2025 *
*******************************************************************



* File content...


***********************************************************
* CDL produced by pvsBuildNetlist on Dec  7 14:45:15 2025 *
***********************************************************


*pvsViewList = auLvs schematic
*pvsStopList = ("auLvs")
*pvsSimName  = auLvs



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt NOT A Out Vdd Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 NOT schematic
  MNM0 Out A Vss Vss nfet_01v8 m=1 l=150n w=420n
  MPM0 Out A Vdd Vdd pfet_01v8 m=1 l=150n w=550n
.ends NOT


.subckt NAND A B Out Vdd Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 NAND schematic
  MNM0 Out A net1 Vss nfet_01v8 m=1 l=150n w=420n
  MNM1 net1 B Vss Vss nfet_01v8 m=1 l=150n w=420n
  MPM0 Out A Vdd Vdd pfet_01v8 m=1 l=150n w=550n
  MPM1 Out B Vdd Vdd pfet_01v8 m=1 l=150n w=550n
.ends NAND


.subckt AND A B Out Vdd Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 AND schematic
  XI0 NAND $PINS A=A B=B Out=net6 Vdd=Vdd Vss=Vss
  XI1 NOT $PINS A=net6 Out=Out Vdd=Vdd Vss=Vss
.ends AND


.subckt AND3 A B C Vdd Vout Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 AND3 schematic
  XI0 AND $PINS A=A B=B Out=net3 Vdd=Vdd Vss=Vss
  XI1 AND $PINS A=net3 B=C Out=Vout Vdd=Vdd Vss=Vss
.ends AND3


***********************************************************
*             Completed at Dec  7 14:45:15 2025           *
***********************************************************
